US07598249B2
4-Benzo[1,3]dioxol-5-ylmethyl-piperazine-1-carboxylic acid pyrimidin-2-ylamide
The title compound was prepared from pyrimidin-2-yl-carbamic acid phenyl ester and 1-benzo[1,3]dioxol-5-ylmethyl-piperazine. 1H NMR (400 MHz, CDCl3): 8.46 (d, J=5.3 Hz, 2H), 7.31 (br s, 1H), 6.85-6.83 (m, 2H), 6.72-6.68 (m, 2H), 5.89 (s, 2H), 3.56 (br s, 4H), 3.45 (bs, 2H), 2.48 (br s, 4H).

reactant | pyrimidin-2-yl-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=NC=CC=N1)=O | C11H9N3O2
reactant | 1-benzo[1,3]dioxol-5-ylmethyl-piperazine | O1COC2=C1C=CC(=C2)CN2CCNCC2 | C12H16N2O2
product | 4-Benzo[1,3]dioxol-5-ylmethyl-piperazine-1-carboxylic acid pyrimidin-2-ylamide | N1=C(N=CC=C1)NC(=O)N1CCN(CC1)CC1=CC2=C(OCO2)C=C1 | C17H19N5O3
